US05322954
Dimethyl 4-chloro-3,6-dihydrophthalate
Dimethyl acetylenedicarboxylate (6.3 g) and chloroprene (6.2 g) were heated at 50° C. for 25 hours. The reaction mixture was distilled under reduced pressure and the fraction boiling at 135° to 138° C. at 2.5 torr was collected. The thick oil weighed 4.6 g (100% yield based on unreacted dimethyl acetylenedicarboxylate).

reactant | Dimethyl acetylenedicarboxylate | 6.3 g | C(#CC(=O)OC)C(=O)OC | C6H6O4
reactant | chloroprene | 6.2 g | C=CC(=C)Cl | C4H5Cl
product | Dimethyl 4-chloro-3,6-dihydrophthalate | 100% yield | ClC=1CC(=C(C(=O)OC)CC1)C(=O)OC | C10H11ClO4
